Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GJ malfunction
 
Major Surgical or Invasive Procedure:
___: GJ tube exchange and upsizing to ___ F MIC.
___: Thoracic ulcer excisional debridement.

 
History of Present Illness:
Mr. ___ is a ___ man with tracheostomy, GJ tube 
(placed ___, and stage ___ decubitus ulcer who presents from 
___ for clogged GJ tube.

In the ED, initial vital signs were: T 96.7 P 94 BP 100/79 R 16 
O2 sat 100% on trach mask. Exam was notable for thick, 
white/yellow secretions. He was suctioned repeatedly for 
tenacious secretions. His GJ could not be flushed in the ED, and 
___ was not available to see him. UA was notable for WBC>182 and 
moderate bacteria. He received IVF. His Foley was changed, and 
he was given Ceftriaxone for UTI.

On Transfer Vitals were: T 98.2 HR 89 BP 102/60 RR O2 Sat 99% 
Trach mask. 

On arrival to the floor, the patient denies any acute 
complaints. Patient's ability to communicate limited by his 
trach, therefore history limited. He is able to mouth words.

 
Past Medical History:
Tracheostomy
Gastrostomy
Cachexia
Protein-calorie malnutrition
Acute and chronic respiratory failure
Critial illness mypoathy
Pressure ulcer lower back  
Urinary retention
Urinary obstruction
Testicular hypofunction
Nondependent alcohol abuse
Insomnia
 
Social History:
___
Family History:
Unknown.
 
Physical Exam:
============================
ADMISSION PHYSICAL EXAM:
============================
Vitals: T 98.2 HR 89 BP 102/60 RR O2 Sat 99% Trach mask. 
GEN: Cachectic appearing, in no acute distress  
HEENT: PERRL, EOMI 
CV: Regular rate and rhythm, S1, S1, no murmurs
Lungs: Trach in position, decreased air movement throughout 
Abdomen: Scaphoid, soft, nontender, GJ tube
GU: Foley  
Ext: Cachectic 
Neuro: AOx3 
Skin: Sacral decubitus ulcer 
============================
DISCHARGE PHYSICAL EXAM:
============================
Vitals: T 97.7 BP 99/66 HR 71 O2Sat 99% on trach mask
GEN: Cachectic appearing, in no acute distress  
HEENT: PERRL, EOMI 
CV: Regular rate and rhythm, S1, S1, no murmurs
Lungs: Trach in position, decreased air movement throughout 
Abdomen: Scaphoid, soft, nontender, GJ tube
GU: Foley  
Ext: Cachectic 
Neuro: AOx3 
Skin: Sacral decubitus ulcer ~3 inches diamter with exposed bone 
and undermined margins. Midthoracic ulcer s/p debridement.
 
Pertinent Results:
===================
ADMISSION  LABS:
===================
___ 08:25AM BLOOD WBC-9.5# RBC-3.82* Hgb-11.2* Hct-36.7* 
MCV-96 MCH-29.3 MCHC-30.5* RDW-15.7* RDWSD-53.1* Plt ___
___ 08:25AM BLOOD Neuts-82.2* Lymphs-9.9* Monos-6.1 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-7.81*# AbsLymp-0.94* 
AbsMono-0.58 AbsEos-0.07 AbsBaso-0.06
___ 08:25AM BLOOD Glucose-80 UreaN-30* Creat-0.5 Na-138 
K-4.3 Cl-97 HCO3-28 AnGap-17
___ 08:25AM BLOOD Calcium-9.7 Phos-3.8 Mg-2.1
___ 08:34AM BLOOD Lactate-1.7
======================
PERTINENT RESULTS:
======================
CXR (___): Successful exchange and upsizing of an ___ F MIC 
gastrojejunostomy tube for a new ___ F MIC gastrojejunostomy 
tube. The tube is ready to use. 
====================
DISCHARGE LABS:
====================
___ 07:20AM BLOOD WBC-7.6 RBC-3.50* Hgb-10.4* Hct-34.0* 
MCV-97 MCH-29.7 MCHC-30.6* RDW-15.9* RDWSD-55.5* Plt ___
___ 07:20AM BLOOD Neuts-85.5* Lymphs-8.2* Monos-4.5* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-6.50* AbsLymp-0.62* 
AbsMono-0.34 AbsEos-0.05 AbsBaso-0.03
___ 07:20AM BLOOD Glucose-116* UreaN-24* Creat-0.4* Na-142 
K-3.9 Cl-104 HCO3-26 AnGap-16
___ 07:20AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ man with tracheostomy, GJ tube, and 
multiple skin ulcers who presented from ___ for GJ tube 
malfunction.
==================
ACTIVE ISSUES:
==================
# GJ tube malfunction: Could not be flushed at ___ or in 
the ED. ___ was consulted. GJ was exchanged and upsized to a ___ 
on ___. GJ needs to be flushed every 2 hours.

# Ulcers: Stage 4, sacral. Approximately 8 x 5.5 x 1 cm with 
exposed bone and undermined margins. Serosanguinous drainage but 
no sign of infection. Second 5 x 4 cm midthoracic ulcer with 
yellow eschar s/p surgical debridement on ___. Left foot with 
several ulcers. Efforts were made to obtain records from prior 
admissions to other hospitals, however they could not be 
obtained. Wound care was consulted, and recommended the 
following: For thoracic wound: apply NormLgel wound gel to wound 
bed, then place Mepilex border 4 x 4, change every 3 days. For 
sacral wound: fill lightly with melgisorb sheet followed by dry 
gauze and sofsorb dressing, secure with Medipore h soft cloth 
tape. Right leg: open to air, monitor wound. Left foot: Adaptic 
to all wounds daily secure with Kling or Kerlix - may need to 
secure further with netting. Please ensure adequate nutrition 
and hydration support to promote healing.

# Severe Malnutrition: Nutrition was consulted and patient was 
given Osmolite 1.5 tube feeds, goal 40 mL/hr.

# Abnormal UA: UA with WBC>182, moderate bacteria, no epithelial 
cells. Patient was afebrile, asymptomatic, and without 
leukocytosis. Patient's Foley was exchanged. Given ceftriaxone 1 
gm IV in ED. Urine cultures showed Enterococcus, speciation 
pending at discharge, and yeast. Patient has chronic Foley, and 
this likely represents colonization. Patient was not discharged 
on any antibiotics. 
=========================
TRANSITIONAL ISSUES:
=========================
- Please ensure that GJ tube is flushed every 2 hours.
- Please ensure adequate wound care for pressure ulcers.
- Patient was found to have positive urine culture but was 
asymptomatic. Given his indwelling Foley and lack of symptoms, 
suspected colonization. Please re-evaluate and treat if symptoms 
develop.
- No changes were made to home medications. Please continue as 
prior.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. OxycoDONE Liquid 5 mg PO Q6H:PRN Pain 
2. Acidophilus (L.acidoph & ___ 
acidophilus) 175 mg oral DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. TraZODone 25 mg PO QHS:PRN Insomnia 
5. Ascorbic Acid (Liquid) 500 mg PO DAILY 
6. iron 300 mg oral BID 
7. omeprazole magnesium 10 mg oral DAILY 

 
Discharge Medications:
1. Ascorbic Acid (Liquid) 500 mg PO DAILY 
2. OxycoDONE Liquid 5 mg PO Q6H:PRN Pain 
3. Tamsulosin 0.4 mg PO QHS 
4. TraZODone 25 mg PO QHS:PRN Insomnia 
5. Acidophilus (L.acidoph & ___ 
acidophilus) 175 mg oral DAILY 
6. iron 300 mg oral BID 
7. omeprazole magnesium 10 mg oral DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- GJ Tube malfunction
- Pressure ulcer

Secondary Diagnosis:
- Severe Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of ___ during your recent visit to 
___. ___ came to us because your GJ tube was 
malfunctioning. We exchanged the tube. We also found that ___ 
had skin ulcers, and we cleaned and dressed these wounds. We 
wish ___ a fast recovery.

Sincerely,

Your ___ Team
 
Followup Instructions:
___